US08492414B2
5-(4-Trifluoromethoxyphenyl)-[1,3,4]oxathiazol-2-one: (II-c)
To a solution of 4-trifluoromethoxybenzamide (0.50 g, 2.43 mmol) in toluene (10 ml) was added chlorocarbonylsulfenyl chloride (0.50 ml, 6.09 mmol). The resulting reaction mixture was refluxed at 90° C. for 2 h. After the completion of the reaction (TLC monitoring), the mixture was concentrated, added diethyl ether and washed twice with water, twice with 5% NaHCO3, again with water, and was dried (Na2SO4), concentrated under vacuum to give the product (crude yield 0.74 g) that was carried forward to the next step without further purification. MS ES+ (264.18).

reactant | 4-trifluoromethoxybenzamide | 2.43 mmol, 0.50 g | FC(OC1=CC=C(C(=O)N)C=C1)(F)F | C8H6F3NO2
reactant | chlorocarbonylsulfenyl chloride | 6.09 mmol, 0.50 ml | ClC(=O)SCl | CCl2OS
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4-Trifluoromethoxyphenyl)-[1,3,4]oxathiazol-2-one | FC(OC1=CC=C(C=C1)C1=NSC(O1)=O)(F)F | C9H4F3NO3S
